US09126931B2
3-Chloro-9-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
Under nitrogen atmosphere, 9-bromo-3-chloro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound S2-4, 76 mg, 0.2 mmol) and triphenylphosphine (69 mg, 1.3 eq.) were added with THF (2 ml), and ((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol (35 mg, 1.3 eq.) and 2.19 N toluene solution (118 μL, 1.3 eq.) of diethyl azodicarboxylic acid were added dropwise thereto, followed by stirring at 50° C. for 2 hr. After cooling, the reaction solution was added with ethyl acetate, washed with brine, dried over sodium sulfate and filtered. The residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/dichloromethane) to give a solid, which was then washed with dichloromethane to obtain the title compound (brown powder, 53 mg).

reactant | 9-bromo-3-chloro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.2 mmol, 76 mg | BrC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)Cl)(C)C)C=C1O | C18H13BrClNO2
reactant | triphenylphosphine | 69 mg, 1.3 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol | 35 mg, 1.3 eq. | CC1(OC[C@@H](O1)CO)C | C6H12O3
reactant | toluene | 2.19 N, 118 μL, 1.3 eq. | C1(=CC=CC=C1)C | C7H8
reactant | diethyl azodicarboxylic acid | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-Chloro-9-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 53 mg | ClC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C(=C4)Br)OC[C@@H]4OC(OC4)(C)C)=O | C24H23BrClNO4
